US09328111B2
To a solution of 2-bromo-5-fluoro-3-nitrobenzoate (20 g, 278 mmol) in EtOH/CH3COOH (200 mL/200 mL) was added iron powder (25 g, 55 mmol). The mixture was vigorously stirred and heated to 85° C. for 1 h. After cooling, the mixture was diluted with water and basified with NaHCO3 (PH=8), extracted with ethyl acetate (450 ml×3). The combined organic layer was washed with brine (500 ml), dried over MgSO4, filtered, and evaporated in vacuum. The residue was applied to flash column chromatography (silica gel) to give methyl 3-amino-2-bromo-5-fluorobenzoate (15.6 g, 87%) as red oil.

reactant | 2-bromo-5-fluoro-3-nitrobenzoate | 278 mmol, 20 g | BrC1=C(C(=O)[O-])C=C(C=C1[N+](=O)[O-])F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH CH3COOH | 200 mL | CCO.CC(=O)O
solvent | water | O | H2O
catalyst | iron | 55 mmol, 25 g | [Fe] | Fe
product | methyl 3-amino-2-bromo-5-fluorobenzoate | 15.6 g, 87% | NC=1C(=C(C(=O)OC)C=C(C1)F)Br | C8H7BrFNO2
